US08349858B2
A 100-mL, round-bottomed flask, fitted with a reflux condenser was charged with 2,5-dichloropyridine (1.00 g, 6.76 mmol), phenylboronic acid (1.07 g, 8.78 mmol), [1,4-bis(diphenylphosphino)butane]palladium(II) dichloride (0.204 g, 0.338 mmol), argon-degassed toluene/ethanol (4:1, 17 mL) and argon-degassed aqueous 1 N sodium carbonate (6.6 mL). The mixture was heated to reflux for 3 h, cooled to room temperature and diluted with water (15 mL) and EtOAc (100 mL). The layers separated and the aqueous phase was extracted with EtOAc (100 mL). The combine organic extracts were dried over Na2SO4, filtered and concentrated. Purification by flash column chromatography (silica gel, 50:50 hexanes/CH2Cl2) provided 5-chloro-2-phenylpyridine (0.959 g, 75%) as a white solid.

reactant | 2,5-dichloropyridine | 6.76 mmol, 1.00 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | phenylboronic acid | 8.78 mmol, 1.07 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | [1,4-bis(diphenylphosphino)butane]palladium(II) dichloride | 0.338 mmol, 0.204 g | C1=CC=C(C=C1)P(CCCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Pd]Cl
product | 5-chloro-2-phenylpyridine | 0.959 g, 75% | ClC=1C=CC(=NC1)C1=CC=CC=C1 | C11H8ClN
